US07626039B2
3-bromomethyl-2,5-dichloro-thiophene: Borane-THF complex (6.009 mL, 6.01 mmol) was added dropwise into a THF (5 mL) solution of 2,5-dichlorothiophene-3-carboxylic acid (296 mg, 1.502 mmol). The resultant solution was stirred at rt under argon overnight. The reaction was quenched with dilute HCl (12 mL) and stirred at rt for 1 h. The reaction was diluted with water and extracted with EtOAc (2×20 mL), washed with NaOH solution and brine, dried (Na2SO4), filtered and evaporated to provide (2,5-dichloro-thiophen-3-yl)-methanol, which was purified by flash chromatography. LCMS m/z 183.2 (M+H)+. To a solution of this intermediate (215 mg, 1.175 mmol) in DCM (7 mL) was added PBr3 (0.144 mL, 1.527 mmol) via syringe. The reaction mixture was stirred at rt under argon for 15 min, then quenched with water (18 mL) and stirred at rt for 1 h. The aqueous layer was extracted with DCM (2×10 ml) and the combined organic layers were dried (Na2SO4), filtered and concentrated yielding 103A (250 mg). 1HNMR (400 MHz, CD3OD) δ: 4.47 (s, 2H), 7.02 (s, 1H).

reactant | 3-bromomethyl-2,5-dichloro-thiophene | BrCC1=C(SC(=C1)Cl)Cl | C5H3BrCl2S
reactant | 2,5-dichlorothiophene-3-carboxylic acid | 1.502 mmol, 296 mg | ClC=1SC(=CC1C(=O)O)Cl | C5H2Cl2O2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2,5-dichloro-thiophen-3-yl)-methanol | ClC=1SC(=CC1CO)Cl | C5H4Cl2OS
